US07598257B2
Step 5: 4-[4-(7-[2-(Trimethylsilyl)ethoxy]methyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]cyclohexylideneacetonitrile
To a solution of 1.0 M potassium tert-butoxide in THF (1.90 mL) at 0° C. was added a solution of diethyl cyanomethylphosphonate (321 μL, 0.00198 mol) in THF (4 mL) dropwise. The reaction was held for 10 min, then it was added to a solution of 4-[4-(7-[2-(trimethylsilyl)-ethoxy]methyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]cyclohexanone (743 mg, 0.00180 mol) in THF (5 mL) stirring at 0° C. under a nitrogen atmosphere. The reaction was stirred 1.5 h at rt. LCMS analysis showed clean conversion to the desired product. To the reaction mixture was then added water and EtOAc. The phases were separated and the aqueous phase was extracted with EtOAc. The combined organic extract was washed with water, then sat'd NaCl, then dried over Na2SO4, and concentrated to dryness to yield 0.76 g of a white crystalline solid (TLC (EtOAc) Rf 0.33). The product was purified by automatic flash chromatography on silica gel. Used 40 g column; flow 40 mL/min; [A=hexane] [B=EtOAc]; A, 2 min; Gradient to B in 20 min. Rotary evaporation yielded 0.70 g of a white crystalline solid (89% yield). 1H NMR (CDCl3) δ 8.9 (s, 1H); 8.3 (s, 2H); 7.4 (d, 1H); 7.3 (s, 1H); 6.9 (d, 1H); 5.7 (s, 2H); 5.3 (s, 1H, olefin); 4.5 (m, 1H, NCH); 3.6 (m, 2H); 3.2 (m, 1H); 2.7 (m, 1H); 2.5 (m, 4H); 2.1 (m, 2H); 1.0 (m, 2H); −0.1 (s, 9H). MS(ES) 435 (M+1).

reactant | potassium tert-butoxide | 1.0 M | CC(C)([O-])C.[K+]
reactant | diethyl cyanomethylphosphonate | 0.00198 mol, 321 μL | C(#N)CP(OCC)(OCC)=O | C6H12NO3P
reactant | 4-[4-(7-[2-(trimethylsilyl)-ethoxy]methyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]cyclohexanone | 0.00180 mol, 743 mg | C[Si](CCOCN1C=CC2=C1N=CN=C2C=2C=NN(C2)C2CCC(CC2)=O)(C)C | C21H29N5O2Si
solvent | THF | 1.90 mL | C1CCOC1 | C4H8O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 4-[4-(7-[2-(Trimethylsilyl)ethoxy]methyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]cyclohexylideneacetonitrile | C[Si](CCOCN1C=CC2=C1N=CN=C2C=2C=NN(C2)C2CCC(CC2)=CC#N)(C)C | C23H30N6OSi
